US04851526
N-Methyl-3,4,5-trimethoxybenzeneethanamine
In a manner similar to Preparation 5, react N-methyl-3,4,5-trimethoxybenzeneacetamide with lithium aluminum hydride to obtain the title compound.

reactant | N-methyl-3,4,5-trimethoxybenzeneacetamide | CNC(CC1=CC(=C(C(=C1)OC)OC)OC)=O | C12H17NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-Methyl-3,4,5-trimethoxybenzeneethanamine | CNCCC1=CC(=C(C(=C1)OC)OC)OC | C12H19NO3
